US08557872B2
Step 2: Synthesis of 2-butoxy-4-trifluoromethyl-benzoic acid
2-Butoxy-4-trifluoromethyl-benzoic acid butyl ester was reacted with 1N LiOH (10 ml) as described above to yield title compound (687 mg).

reactant | 2-Butoxy-4-trifluoromethyl-benzoic acid butyl ester | C(CCC)OC(C1=C(C=C(C=C1)C(F)(F)F)OCCCC)=O | C16H21F3O3
solvent | LiOH | 1N, 10 ml | [Li+].[OH-]
product | 2-butoxy-4-trifluoromethyl-benzoic acid | 687 mg | C(CCC)OC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C12H13F3O3
